US05977117
D. Ethyl 2-(3,4-methylenedioxy)phenoxy-6-[2-(1-propenyl)-4,5-(methylenedioxy)phenoxy]benzoate
Sodium hydride (308 mg, 7.69 mmol) was added to a solution of sesamol (967 mg, 6.99 mmol) in dry THF (5 ml), and the solution was stirred at room temperature for 20 minutes. The THF was then removed under pressure and the remaining sodium salt of sesamol was placed under vacuum for 10 minutes. Dry DMSO (8 ml) followed immediately by ethyl-2-fluoro-6-[2-(1-propenyl)-3,4 (methylenedioxy)phenoxy]benzoate (2.41 g, 6.99 mmol) in dry DMSO were added. The resulting dark brown mixture was heated at 80° C. for 18 h. Water (30 ml) followed by ethyl acetate (50 ml) was added to the reaction mixture upon cooling and the layers were separated. The aqueous layer was extracted with an additional 50 ml of EtOAC. The combined organic fractions was then washed with brine and dried over MgSO4. Evaporation of solvents yielded an oil which was purified by flash column chromatography using 5-10%-ethyl acetate-hexanes giving 1.4 g (43%) of the unsaturated ester as a yellow oil.

reactant | Sodium hydride | 7.69 mmol, 308 mg | [H-].[Na+]
reactant | sesamol | 6.99 mmol, 967 mg | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | ethyl-2-fluoro-6-[2-(1-propenyl)-3,4 (methylenedioxy)phenoxy]benzoate | 6.99 mmol, 2.41 g | C(C)OC(C1=C(C=CC=C1OC1=C(C2=C(C=C1)OCO2)C=CC)F)=O | C19H17FO5
reactant | Water | 30 ml | O | H2O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(3,4-methylenedioxy)phenoxy-6-[2-(1-propenyl)-4,5-(methylenedioxy)phenoxy]benzoate | C1OC=2C=C(OC3=C(C(=O)OCC)C(=CC=C3)OC3=C(C=C4C(=C3)OCO4)C=CC)C=CC2O1 | C26H22O8
